US08809352B2
To a stirring mixture of 2-(trifluoromethyl)-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidin-4-ol (0.246 g, 1.122 mmol) in tetrahydrofuran (11 mL) was added a solution of di-tert-butyl dicarbonate (0.269 g, 1.235 mmol) in tetrahydrofuran (11 mL). The mixture was stirred at ambient temperature for 16 h and was then concentrated in vacuo. The crude residue was purified by flash chromatography on silica gel (eluent: 0 to 7% methanol/dichloromethane) to afford tert-butyl 4-hydroxy-2-(trifluoromethyl)-5,6-dihydropyrido[3,4-d]pyrimidine-7(8H)-carboxylate as a light yellow foamy solid (0.306 g, 85% yield). MS (ESI) m/e (M−H)−=318.3.

reactant | 2-(trifluoromethyl)-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidin-4-ol | 1.122 mmol, 0.246 g | FC(C=1N=C(C2=C(N1)CNCC2)O)(F)F | C8H8F3N3O
reactant | di-tert-butyl dicarbonate | 1.235 mmol, 0.269 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 11 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 11 mL | O1CCCC1 | C4H8O
product | tert-butyl 4-hydroxy-2-(trifluoromethyl)-5,6-dihydropyrido[3,4-d]pyrimidine-7(8H)-carboxylate | 0.306 g, 85% yield | OC=1C2=C(N=C(N1)C(F)(F)F)CN(CC2)C(=O)OC(C)(C)C | C13H16F3N3O3
